US07115750B1
1,2-Dihydroxy-4-nitrobenzene (4.65 g, 0.030 mol), potassium carbonate (8.71 g, 0.063 mol) and methoxymethyl chloride (2.42 g, 0.030 mol) were dissolved in dimethylformamide (50 ml), which was stirred at 40° C. for 30 minutes. Epibromohydrin (7.20 g, 0.045 mol) was added to the mixture, which was stirred at 60° C. for 80 minutes. Then water was added, and extraction was conducted using ethyl acetate. The organic layer was washed with water, and concentrated. The residue was purified by alumina column chromatography (development solvent: ethyl acetate-n-hexane=1:4), to give 2-[[2-(methoxymethoxy)-5-nitrophenoxy]methyl]oxirane (2.61 g) as a white powder.

reactant | 1,2-Dihydroxy-4-nitrobenzene | 0.030 mol, 4.65 g | OC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H5NO4
reactant | potassium carbonate | 0.063 mol, 8.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxymethyl chloride | 0.030 mol, 2.42 g | COCCl | C2H5ClO
reactant | Epibromohydrin | 0.045 mol, 7.20 g | C(Br)C1CO1 | C3H5BrO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[[2-(methoxymethoxy)-5-nitrophenoxy]methyl]oxirane | 2.61 g | COCOC1=C(OCC2OC2)C=C(C=C1)[N+](=O)[O-] | C11H13NO6
